US05665747
4-Methyl -2-trifluoroacetylthiazole
n-Butyllithium (2.5M solution in hexanes, 40.4 ml) was added dropwise to a stirred solution of 4-methylthiazole (10 g) in anhydrous tetrahydrofuran at -70° C. under an atmosphere of dry nitrogen. After 30 minutes, ethyl trifluoroacetate (12 ml) was added dropwise. After a further 2 hours the mixture was allowed to warm to room temperature and was then left stirring overnight. Saturated aqueous ammonium chloride solution was added and the organic phase was separated, dried and evaporated to dryness. The residue was purified by flash chromatography to give the hydrate corresponding to the title compound as a white solid.

reactant | n-Butyllithium | 2.5M, 40.4 ml | C(CCC)[Li]
reactant | 4-methylthiazole | 10 g | CC=1N=CSC1 | C4H5NS
reactant | ethyl trifluoroacetate | 12 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Methyl -2-trifluoroacetylthiazole | CC=1N=C(SC1)C(C(F)(F)F)=O | C6H4F3NOS
